US05843975
17.1. (S)-5-Methoxymethyl-3-(6-hydroxy-1,2-benzisothiazol-3-yl)oxazolidin-2-one
8.7 ml (68 mmol) of dimethylaniline and 6.9 g (0.051 mol) of aluminium chloride are added in three portions over 4 hours to a solution of 2.10 g (5.67 mmol) of (S)-5-methoxymethyl-3-[6-(phenylmethoxy)-1,2-benzisothiazol-3-yl]oxazolidin-2-one in 76 ml of dichloromethane, which solution is cooled at -8° C. The mixture is poured into ice-water and the product is extracted with dichloromethane. The organic phase is dried over sodium sulphate and concentrated under reduced pressure. After purification by chromatography on a silica column with dichloromethane and methanol, in proportions of 99:1, and trituration in diisopropyl ether, 1.4 g of product are obtained.

reactant | dimethylaniline | 68 mmol, 8.7 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | aluminium chloride | 0.051 mol, 6.9 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | (S)-5-methoxymethyl-3-[6-(phenylmethoxy)-1,2-benzisothiazol-3-yl]oxazolidin-2-one | 5.67 mmol, 2.10 g | COC[C@@H]1CN(C(O1)=O)C1=NSC2=C1C=CC(=C2)OCC2=CC=CC=C2 | C19H18N2O4S
solvent | dichloromethane | 76 ml | ClCCl | CH2Cl2
product | (S)-5-Methoxymethyl-3-(6-hydroxy-1,2-benzisothiazol-3-yl)oxazolidin-2-one | 1.4 g | COC[C@@H]1CN(C(O1)=O)C1=NSC2=C1C=CC(=C2)O | C12H12N2O4S
